US07910585B2
To a suspension of 3-fluoro-2-methyl-6-nitro-benzoic acid methyl ester (6.1 g, 28.6 mmol) and N-bromosuccinimide in 70 mL of CCl4 is added 2,2′-azobisisobutyronitrile at room temperature under nitrogen atmosphere. The reaction mixture is stirred at 85° C. for 6 hours under N2, then cooled to room temperature and filtrated. The filtrate is extracted with CH2Cl2 and washed with aqueous NaHCO3 solution followed by brine, dried over Na2SO4, filtered and evaporated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to afford the 2-bromomethyl-3-fluoro-6-nitro-benzoic acid methyl ester (4.48 g, 15.3 mmol, 54%) as yellow oil. 1H-NMR (400 MHz, δ, ppm) CDCl3: 4.01 (s, 3H), 4.53 (d, 2H), 7.31 (dd, 1H), 8.17 (dd, 1H).

reactant | 3-fluoro-2-methyl-6-nitro-benzoic acid methyl ester | 28.6 mmol, 6.1 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)C)=O | C9H8FNO4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-3-fluoro-6-nitro-benzoic acid methyl ester | 15.3 mmol, 4.48 g, 54% | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)CBr)=O | C9H7BrFNO4
